US07125900B2
N-(5-Acetyl-4-methyl-1,3-thiazol-2-yl)-2,4,5-trichlorobenzenesulfonamide
The title compound was prepared from 5-acetyl-2-amino-4-methylthiazole (42 mg) and 2,4,5-trichlorobenzenesulfonyl chloride (76 mg) as described in the synthetic METHOD B to give a white solid (23.7 mg) with purity >90%: MS (pos) m/z 399.2, 401.2; HRMS m/z 397.9103 (calc. of monoisotopic mass for C12H9Cl3N2O3S2 gives 397.9120).

reactant | 5-acetyl-2-amino-4-methylthiazole | 42 mg | C(C)(=O)C1=C(N=C(S1)N)C | C6H8N2OS
reactant | 2,4,5-trichlorobenzenesulfonyl chloride | 76 mg | ClC1=C(C=C(C(=C1)Cl)Cl)S(=O)(=O)Cl | C6H2Cl4O2S
product | N-(5-Acetyl-4-methyl-1,3-thiazol-2-yl)-2,4,5-trichlorobenzenesulfonamide | C(C)(=O)C1=C(N=C(S1)NS(=O)(=O)C1=C(C=C(C(=C1)Cl)Cl)Cl)C | C12H9Cl3N2O3S2
